US05731309
4-(4-Acetamido-4-phenylpiperidino)-N-benzyl-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine
Using a procedure similar to that described in Example 1, except replacing the (3,4-dichlorophenyl)butylamine and the 3,5-bis-(trifluoromethyl)benzaldehyde used therein with 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine and benzaldehyde, respectively, the title compound was prepared; mp 65°-67° C.; NMR: 7.85 (s,1), 7.75 (s,1), 7.65 (s,1), 7.45 (s,1), 7.40-6.95 (broad m,10), 3.85 (d,1, J=15.9), 3.65 (d,1 J=13.6) 3.56 (d,1, J=15.9), 3.42 (d,1, J=13.6), 3.05 (m, 1), 2.75-2.40 (m,4), 2.35-2.18 (m, 2), 2.18-1.95 (m,4), 1.85 (s,3); MS: m/z=750(M+1,100%). Analysis for C39H39Cl2F6N3O: Calculated: C, 61.10; H, 5.13; N, 5.48; Found: C, 61.12; H, 5.34; N, 5.65.

reactant | (3,4-dichlorophenyl)butylamine | ClC=1C=C(C=CC1Cl)CCCCN | C10H13Cl2N
reactant | 3,5-bis-(trifluoromethyl)benzaldehyde | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CN)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C32H33Cl2F6N3O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 4-(4-Acetamido-4-phenylpiperidino)-N-benzyl-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CNCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C39H39Cl2F6N3O
